US08304446B2
(3R)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxy-1-methylethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-3-morpholinecarboxamide formate salt
DIPEA (0.057 mL, 0.326 mmol) was added to a stirring solution of (3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-morpholinecarboxylic acid (18.84 mg, 0.081 mmol) in DCM (1 mL). HATU (31.0 mg, 0.081 mmol) was then added, followed by N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 78) (40 mg, 0.081 mmol) and the reaction was stirred for an hour at room temp. The reaction mixture was concentrated and 4N Hydrogen chloride in dioxane (0.020 mL, 0.081 mmol) was then added and the reaction stirred at room temperature for 0.5 h. The reaction mixture was passed through a pre-conditioned (MeOH) SCX-2 cartridge, washed with methanol and then eluted using 2M ammonia in methanol. The appropriate ammoniacal fractions were concentrated, and the residue was dissolved in DMSO (0.5 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was removed under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound (2.7 mg, 5%). LCMS (System F) RT=0.84 min, ES+ve m/z 604/606 (M+H)+.

reactant | DIPEA | 0.326 mmol, 0.057 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-morpholinecarboxylic acid | 0.081 mmol, 18.84 mg | CC(C)(C)OC(=O)N1[C@H](COCC1)C(=O)O | C10H17NO5
reactant | HATU | 0.081 mmol, 31.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxy-1-methylethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C22H23ClN4O3S2
reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 0.081 mmol, 0.020 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (3R)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxy-1-methylethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-3-morpholinecarboxamide formate salt | 2.7 mg, 5% | C(=O)O.ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)C(C)(C)O)CC=1C=C(C=CC1)CNC(=O)[C@@H]1NCCOC1 | InChI=1S/C27H30ClN5O5S2.CH2O2/c1-27(2,35)19-7-4-8-21-24(19)25(32-40(36,37)23-10-9-22(28)39-23)31-33(21)15-18-6-3-5-17(13-18)14-30-26(34)20-16-38-12-11-29-20;2-1-3/h3-10,13,20,29,35H,11-12,14-16H2,1-2H3,(H,30,34)(H,31,32);1H,(H,2,3)/t20-;/m1./s1
